* source LAB4-T7
Q_Q1         OUT1 VIN N00257 Q2N2222
Q_Q2         OUT2 0 N00257 Q2N2222
Q_Q3         OUT3 VIN N00300 Q2N2222
Q_Q4         OUT4 0 N00306 Q2N2222
R_R1         OUT1 V+  15k TC=0,0 
R_R2         OUT2 V+  15k TC=0,0 
R_R3         OUT3 V+  15k TC=0,0 
R_R4         OUT4 V+  15k TC=0,0 
V_V1         V+ 0 15V
V_V2         0 V- 15V
V_V3         VIN 0 0Vdc
I_I1         N00257 V- DC 1mA  
I_I2         N00312 V- DC 1mA  
R_R5         N00300 N00312  100 TC=0,0 
R_R6         N00312 N00306  100 TC=0,0 
