* source LAB4-TC
J_J1         OUT1 VIN N00204 BF245A 
J_J2         N00204 0 OUT2 BF245A 
R_R1         OUT1 V+  10k TC=0,0 
R_R2         OUT2 V+  10k TC=0,0 
I_I1         N00204 V- DC 1mA  
V_V1         V+ 0 15V
V_V2         0 V- 15V
V_V3         VIN 0 0Vdc
