* source LAB1
X_U1A         0 N01883 N01942 N01925 OUT LM324
V_V1         N01942 0 15V
V_V2         0 N01925 15v
V_V3         IN 0 -1V
R_R1         IN N01883  10k TC=0,0 
R_R2         N01883 OUT  100k TC=0,0 
R_R3         OUT 0  10k TC=0,0 
