* source LAB2
X_U1A         0 N00190 N00249 N00256 OUT LM324
V_V1         N00249 0 15V
V_V2         0 N00256 15V
V_V3         IN 0 -1V
R_R1         IN N00190  10 TC=0,0 
R_R2         N00190 OUT  100 TC=0,0 
R_R3         OUT 0  10k TC=0,0 
