* source LAB10
X_U1         VP VN +VCC 0 VO LM741
R_R2         VN VO  30k TC=0,0 
R_RL         0 OUT  10k TC=0,0 
C_C2         VO OUT  100n  TC=0,0 
V_V2         +VCC 0 12V
R_R1         N01935 VN  10k TC=0,0 
R_R3         VP +VCC  20k TC=0,0 
R_R4         0 VP  20k TC=0,0 
C_C3         IN N01935  100n  TC=0,0 
V_V3         IN 0 DC 0Vdc AC 1Vac 
