* source LAB6-TEMA10
R_RL2         0 OUT2  10k TC=0,0 
R_R3         IN N00687  10k TC=0,0 
X_U1         0 N00687 V+ V- OUT2 uA741
V_V1         V+ 0 15V
R_R4         N00687 OUT2  10k TC=0,0 
V_V3         IN 0  
+SIN 0 9.5 10k 0 0 0
V_V2         0 V- 15V
