* source LABORATOR6
X_U1         IN N00299 V+ V- OUT1 uA741
X_U2         0 N00470 V+ V- OUT2 uA741
R_R1         0 N00299  10k TC=0,0 
R_R2         N00299 OUT1  100k TC=0,0 
R_R3         IN N00470  10k TC=0,0 
R_R4         N00470 OUT2  100k TC=0,0 
R_RL1         0 OUT1  10k TC=0,0 
R_RL2         0 OUT2  10k TC=0,0 
V_V3         IN 0 DC 0Vdc AC 1Vac 
V_V1         V+ 0 15V
V_V2         0 V- 15V
