* source LABORATORED2
V_V1         N00128 0  
+PULSE 0V 5V 10n 10n 10n 0.5u 1u
R_R1         0 N00774  1k TC=0,0 
X_U1A         N00128 0 N00774 $G_CD4000_VDD $G_CD4000_VSS CD4001B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
