* source COLOCVIU_LABORATOR
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND C IO_STM IO_LEVEL=0 
+ 0 0
+ +.125uS 1
+REPEAT FOREVER
+ +.125uS 0
+  +.125uS 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND B IO_STM IO_LEVEL=0 
+ 0 0
+ +.25uS 1
+REPEAT FOREVER
+ +.25uS 0
+  +.25uS 1
+ ENDREPEAT
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND A IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_U1A         B N00347 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00347 C N01031 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N01031 A F $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
