* source LAB3ED
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND B IO_STM IO_LEVEL=0 
+ 0 0
+ +.25uS 1
+REPEAT FOREVER
+ +.25uS 0
+  +.25uS 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND C IO_STM IO_LEVEL=0 
+ 0 0
+ +.125uS 1
+REPEAT FOREVER
+ +.125uS 0
+  +.125uS 1
+ ENDREPEAT
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND A IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_U1A         C N00780 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         A N00850 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00850 B N00954 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00954 N00780 F4 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
