* source LABED12
X_U1A         N00272 C ANC $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         B C BC $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N00443 N00455 N00567 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         N00567 N00276 ABNCN $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00276 N00272 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         B N00443 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         C N00455 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         ANC BC N00757 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00757 ABNCN F2 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N00276 IO_STM IO_LEVEL=0 
+ 0 0
+ +500nS 1
+REPEAT FOREVER
+ +500nS 0
+  +500nS 1
+ ENDREPEAT
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND B IO_STM IO_LEVEL=0 
+ 0 0
+ +250nS 1
+REPEAT FOREVER
+ +250nS 0
+  +250nS 1
+ ENDREPEAT
U_DSTM4         STIM(1,1) $G_DPWR $G_DGND C IO_STM IO_LEVEL=0 
+ 0 0
+ +125nS 1
+REPEAT FOREVER
+ +125nS 0
+  +125nS 1
+ ENDREPEAT
